US05639768
A mixture of 0.16 g (0.26 mmol) of ethyl 5-[5-[4-(aminoiminomethyl)phenoxy]pentyloxy]-2-[N,N-bis(1-methylethyl)carbamoyl]phenoxydimethylacetate monohydrochloride and 10 ml of 6N hydrochloric acid is heated to reflux for 16 hours. The mixture is cooled to room temperature and then concentrated under reduced pressure at 50° C. to afford 5-[5-[4-(aminoiminomethyl)phenoxy]pentyloxy]-2-[N,N-bis(1-methylethyl)carbamoyl]phenoxydimethylacetic acid as an oil; CHN calculated for C29H41N3O6.HCl.0.5H2O:

reactant | ethyl 5-[5-[4-(aminoiminomethyl)phenoxy]pentyloxy]-2-[N,N-bis(1-methylethyl)carbamoyl]phenoxydimethylacetate monohydrochloride | 0.26 mmol, 0.16 g | Cl.NN=CC1=CC=C(OCCCCCOC=2C=CC(=C(OC(C(=O)OCC)(C)C)C2)C(N(C(C)C)C(C)C)=O)C=C1
solvent | hydrochloric acid | 6N, 10 ml | Cl | ClH
product | 5-[5-[4-(aminoiminomethyl)phenoxy]pentyloxy]-2-[N,N-bis(1-methylethyl)carbamoyl]phenoxydimethylacetic acid | NN=CC1=CC=C(OCCCCCOC=2C=CC(=C(OC(C(=O)O)(C)C)C2)C(N(C(C)C)C(C)C)=O)C=C1 | C29H41N3O6
